US05451566
A solution of pyrrole-2-carboxaldehyde (19.0 g, 0.2 mol) in N,N-dimethylformamide (50 ml) was added dropwise to a suspension of sodium hydride (80% dispersion in oil, 6.3 g, 0.21 mol) in N,N-dimethylformamide (100 ml), maintaining the temperature of the reaction between 5°-10° C. by means of ice-bath cooling. When the addition was complete, stirring was continued for 30 minutes, and then 3-chloro-4-fluorobenzotrifluoride (39.7 g, 0.20 mol) added. The mixture was stirred for 3 hours, then warmed to 50° C. for 18 hours. The mixture was cooled to room temperature and partitioned between diethyl ether and water. The ethereal extract was washed sequentially with water and brine, dried over magnesium sulfate, filtered and the filtrate evaporated. Trituration with hexane gave 1-(2'-chloro-4'-trifluoromethylphenyl)pyrrole-2-carboxaldehyde as a pale yellow solid (30.6 g), m.p. 119°-120° C.

reactant | pyrrole-2-carboxaldehyde | 0.2 mol, 19.0 g | N1C(=CC=C1)C=O | C5H5NO
reactant | sodium hydride | 0.21 mol, 6.3 g | [H-].[Na+]
reactant | 3-chloro-4-fluorobenzotrifluoride | 0.20 mol, 39.7 g | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2'-chloro-4'-trifluoromethylphenyl)pyrrole-2-carboxaldehyde | 30.6 g | ClC1=C(C=CC(=C1)C(F)(F)F)N1C(=CC=C1)C=O | C12H7ClF3NO
